US07544812B2
2-Butoxy-3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester:
3-Methoxybenzyl bromide (0.024 mL, 0.170 mmol, d=1.436) and tetrabutyl ammonium iodide (catalytic amount) are added to a 0° C. suspension of 2-butoxy-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester (0.046 g, 0.114 mmol) and sodium hydride (0.011 g, 0.28 mmol, 60% suspension on mineral oil), pre-stirred for 1 h at ambient temperature. The reaction mixture is stirred at ambient temperature 48 h, diluted with ethyl acetate, and washed with 1N HCl and water. The organic layer is dried, concentrated, and used in the next step. MS [EI+] 527 (M+H)+.

reactant | 3-Methoxybenzyl bromide | 0.170 mmol, 0.024 mL | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | 2-butoxy-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.114 mmol, 0.046 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(C)OCCCC)=O | C22H34N2O5
reactant | sodium hydride | 0.28 mmol, 0.011 g | [H-].[Na+]
catalyst | tetrabutyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Butoxy-3-(4-{2-[1-(3-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC(=CC=C1)OC)=O)C)(C)OCCCC)=O | C30H42N2O6
